US04761424
A suspension of 1.0 g (2.1 mmol) of N-[4-[(3,4-dimethoxyphenyl)methyl]phenyl]-3,4-dihydro-4-oxo-2H-1-benzothiopyran-3-carboxamide, 1,1-dioxide and BBr3.S (CH3)2 (4.0 g, 12.6 mmol) in 150 ml of dichloromethane was heated under reflux under nitrogen for 18 hours. The resulting yellow suspension was poured onto 600 ml of ice water, stirred for one and one-half hours and then filtered. The crude product was recrystallized from isopropanol-water to yield 544 mg (59%) of N-[4-[(3,4-dihydroxyphenyl)methyl]phenyl]-3,4-dihydro-4-oxo-2H-1-benzothiopyran-3-carboxamide, 1,1-dioxide, mp 216°-218° C.

reactant | N-[4-[(3,4-dimethoxyphenyl)methyl]phenyl]-3,4-dihydro-4-oxo-2H-1-benzothiopyran-3-carboxamide | 2.1 mmol, 1.0 g | COC=1C=C(C=CC1OC)CC1=CC=C(C=C1)NC(=O)C1CSC2=C(C1=O)C=CC=C2 | C25H23NO4S
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | N-[4-[(3,4-dihydroxyphenyl)methyl]phenyl]-3,4-dihydro-4-oxo-2H-1-benzothiopyran-3-carboxamide | 544 mg, 59% | OC=1C=C(C=CC1O)CC1=CC=C(C=C1)NC(=O)C1CSC2=C(C1=O)C=CC=C2 | C23H19NO4S
